US09422292B2
2-nitrobenzenamine (5.0 g, 36.2 mmol) was dissolved in 100 mL of THF under N2 atmosphere, 60% NaH (1.7 g, 43.4 mmol) was added at 0° C., and the mixture was stirred for 30 min at room temperature. (Bromomethyl)benzene (7.4 g, 43.4 mmol) was added at 0° C. and the reaction was stirred at 80° C. overnight. The solvent was evaporated in vacuo and the residue was purified by combi-flash (PE:EA=2:1) to give N-benzyl-2-nitroaniline as a yellow solid (2.92 g, 36%). 1H NMR (300 MHz, CD3OD): δ 4.65 (d, J=6 Hz, 2H), 6.69 (t, J=7.2 Hz, 1H), 6.94 (d, J=9 Hz, 1H), 7.25-7.50 (m, 5H), 8.09 (d, J=8.4 Hz, 1H), 8.62-8.68 (m, 1H).

reactant | 2-nitrobenzenamine | 36.2 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N | C6H6N2O2
reactant | NaH | 43.4 mmol, 1.7 g | [H-].[Na+]
reactant | (Bromomethyl)benzene | 43.4 mmol, 7.4 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-benzyl-2-nitroaniline | 2.92 g, 36% | C(C1=CC=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O2
